US08193227B2
2-chloro-4-hydroxy-5-methylbenzenesulfonyl chloride
To a solution of chlorosulfonic acid (3.69 g, 31.65 mmol) dissolved in 30 mL of dichloromethane was added 3-chloro-6-methylphenol (3.0 g, 21.1 mmol) dropwise. After 10 minutes, the reaction was quenched by pouring it into ice water. The reaction was extracted with dichloromethane, washed with brine, dried over MgSO4, filtered, and concentrated to give 120 mg (2.4%) of the title compound.

reactant | chlorosulfonic acid | 31.65 mmol, 3.69 g | ClS(=O)(=O)O | ClHO3S
reactant | 3-chloro-6-methylphenol | 21.1 mmol, 3.0 g | ClC=1C=C(C(=CC1)C)O | C7H7ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-chloro-4-hydroxy-5-methylbenzenesulfonyl chloride | 120 mg, 2.4% | ClC1=C(C=C(C(=C1)O)C)S(=O)(=O)Cl | C7H6Cl2O3S
